US07977481B2
Step 3: Synthesis of 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid (2-cyanoethyl)-ethyl amide
Combined 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid (22 mg, 0.065 mmol), DIEA (27 uL, 0.195 mmol), and HATU (36.8 mg, 0.097 mmol) in DMA (0.5 mL) in a Smith microwave vial. Added 3-ethylamino propionitrile (10.9 uL, 0.097 mmol) and heated in microwave for 900 seconds at 90° C. The crude mixture was purified by prep LCMS to afford title compound (2.7 mg, 10.9%). MS: m/z 379 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 1.203 (br t, 3H), 2.88 (br t, J=6.5 Hz, 2H), 3.65 (Br s, 2H), 3.70 (Br s, 2H), 7.33 (dd, J=5, 8.5 Hz, 1H), 7.469 (dd, J=1.5, 6.5 Hz, 1H), 7.497 (dd, J=1.5, 4 Hz, 1H), 7.985 (dd, J=1.5, 4 Hz, 1H), 8.16 (m, 1H), 8.22 (m, 1H), 8.56 (dd, J=1.5, 5 Hz, 1H), 8.95 (d, J=2.5 Hz, 1H), 9.91, (s, 1H).

reactant | 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid | 0.065 mmol, 22 mg | N1=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O | C14H10N4O2S
reactant | DIEA | 0.195 mmol, 27 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.097 mmol, 36.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-ethylamino propionitrile | 0.097 mmol, 10.9 uL | C(C)NCCC#N | C5H10N2
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid (2-cyanoethyl)-ethyl amide | 2.7 mg, 10.9% | C(#N)CCN(C(=O)C=1SC(=CC1)C1=NC(=NC=C1)NC=1C=NC=CC1)CC | C19H18N6OS
